US08461328B2
A mixture of trans methanesulfonic acid 4-tert-butoxycarbonylamino-cyclohexylmethyl ester (0.93 mg, 3.00 mmol) and sodium cyanide (0.44 g, 9.00 mmol) in DMSO (10 mL) was stirred at 90° C. for 4 hours. After cooling the mixture was partitioned between ethyl acetate and brine and the aqueous phase was extracted with ethyl acetate (×2). The combined organic extracts were washed with water, brine, dried with sodium sulfate and concentrated under vacuum to give 0.72 g (100%) of trans (4-cyanomethyl-cyclohexyl)-carbamic acid tert-butyl ester as a white solid. 1H NMR (400 MHz, CDCl3) δ: 4.38 (br s, 1H), 3.45-3.33 (m, 1H), 2.26 (d, 2H), 2.10-2.02 (m, 2H), 1.96-1.87 (m, 2H), 1.71-1.57 (m, 1H), 1.45 (s, 9H), 1.26-1.03 (m, 4H).

reactant | trans methanesulfonic acid 4-tert-butoxycarbonylamino-cyclohexylmethyl ester | 3.00 mmol, 0.93 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)COS(=O)(=O)C | C13H25NO5S
reactant | sodium cyanide | 9.00 mmol, 0.44 g | [C-]#N.[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | trans (4-cyanomethyl-cyclohexyl)-carbamic acid tert-butyl ester | 0.72 g, 100% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC#N)=O | C13H22N2O2
